US04618677
4.1 g of thiourea were added to a mixture of 8.0 g of 1-(4-chlorobenzyl)-4-(3-chloropropyl)homopiperazine and 100 ml of reagent ethanol. The mixture was refluxed for 6 hours and then stirred overnight at room temperature. A solution of 5.0 g of sodium hydroxide in 30 ml of water was added, and the resulting solution was refluxed for 4 hours. The ethanol was removed in vacuo, and water was added to the residue. The product was extracted with methylene chloride, and the extract was dried (sodium sulfate) and concentrated to give 3.1 g (39% of theory) of 3-[4-(4-chlorobenzyl)homopiperazin-1-yl]propanethiol as a yellow oil.

reactant | thiourea | 4.1 g | NC(=S)N | CH4N2S
reactant | 1-(4-chlorobenzyl)-4-(3-chloropropyl)homopiperazine | 8.0 g | ClC1=CC=C(CN2CCN(CCC2)CCCCl)C=C1 | C15H22Cl2N2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | 5.0 g | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
product | 3-[4-(4-chlorobenzyl)homopiperazin-1-yl]propanethiol | 3.1 g, 39% | ClC1=CC=C(CN2CCN(CCC2)CCCS)C=C1 | C15H23ClN2S
